US04818754
7-[3-Pentanoyloxypropylamino]-5-methyl-1H-pyrazolo[4,3-b]pyridine (E4)
7-[3-Hydroxypropylamino]-5-methyl-1H-pyrazolo[4,3-b]-pyridine,* (0.15 g, 0.73 mmol) was suspended in dry pyridine (2 ml) and 1,4-dioxan (2 ml) and cooled in an ice-bath. A solution of valeryl chloride (0.18 ml, 2.1 equiv.) in dioxan (1.5 ml) was added dropwise with stirring and then left at room temperature overnight. Methanol (10 ml) was added and the resulting solution stirred for 1 h and then solvents removed under reduced pressure. The residue was chromatographed on basic alumina eluting initially with ethyl acetate rising to 30% methanol/ethyl acetate. After removal of solvent a colourless oil was obtained, which on trituration with ether gave the title compound as a white solid, m.p. 92°-95° C.

reactant | 7-[3-Hydroxypropylamino]-5-methyl-1H-pyrazolo[4,3-b]-pyridine | OCCCNC1=C2C(=NC(=C1)C)C=NN2 | C10H14N4O
reactant | valeryl chloride | 0.18 ml, 2.1 equiv. | C(CCCC)(=O)Cl | C5H9ClO
reactant | Methanol | 10 ml | CO | CH4O
reactant | ether | CCOCC | C4H10O
solvent | pyridine | 2 ml | N1=CC=CC=C1 | C5H5N
solvent | dioxan | 1.5 ml | O1CCOCC1 | C4H8O2
solvent | 1,4-dioxan | 2 ml | O1CCOCC1 | C4H8O2
product | 7-[3-Pentanoyloxypropylamino]-5-methyl-1H-pyrazolo[4,3-b]pyridine | C(CCCC)(=O)OCCCNC1=C2C(=NC(=C1)C)C=NN2 | C15H22N4O2
